Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with stage IV cholangiocarcinoma metastatic to the
peritoneum last chemo C23 D1 cisplatin/gemcitabine on ___ now
admitted with post-prandial severe abdominal pain. His history 
is
significant for diagnosis in ___ and he began chemo with 
gem/cis
___, course complicated by cholangitis (s/p biliary stents 
and
external-internal PTBD drain) and right hydronephrosis (s/p
ureteral stenting) and PVT now on lovenox.

He tells me that three weeks ago he developed severe abdominal
cramping that is diffuse, occurse ___ hours after meals, with 
one
episode of vomiting 3 weeks ago but now primarily nausesa. Pain
also wakes him up from sleep so is not always clearly associated
with eating. He has had no diarrhea or fever, no dark urine or
pale stools. No significantly worsening RUQ pain. Otherwise at
home is very active. No headaches or cough/dyspnea. He is using
more oxycodone at home but not providing much relief. Pain is
currently ___ and ranges up to ___. 

In clinic vitals were BP: 114/78. Heart Rate: 68 T 99.1.
Labs in clinic today notable for neutropenia.

REVIEW OF SYSTEMS:
GENERAL: No fever, chills, night sweats, recent weight changes.
HEENT: No sores in the mouth, painful swallowing, intolerance to 

liquids or solids, sinus tenderness, rhinorrhea, or congestion.
CARDS: No chest pain, chest pressure, exertional symptoms, or 
palpitations.
PULM: No cough, shortness of breath, hemoptysis, or wheezing.
GI: No abdominal  pain. No recent change in bowel habits,
hematochezia, or melena. 
GU: No dysuria or change in bladder habits.
MSK: No arthritis, arthralgias, myalgias, or bone pain.
DERM: Denies rashes, itching, or skin breakdown.
NEURO: No headache, visual changes, numbness/tingling, 
paresthesias, or focal neurologic symptoms.
PSYCH: No feelings of depression or anxiety. All other review of 

systems negative.

 
Past Medical History:
ONCOLOGIC HISTORY:  ___ initially presented with
diarrhea ___, but then became jaundiced in ___, prompting medical evaluation.  He underwent two ERCP
procedures at ___, at which time
biliary stents were placed.  Cytology was initially inconclusive
but on followup study showed adenocarcinoma.  He was referred 
for
surgical exploration and planned resection on ___. 

The procedure was aborted, however, as peritoneal metastases 
were
identified intraoperatively.  Biopsy confirmed the finding of
metastatic adenocarcinoma morphologically consistent with
pancreaticobiliary primary.  His postoperative course was
complicated by E. coli bacteremia.  He began
gemcitabine/cisplatin systemic chemotherapy on ___. 
Treatment was held in ___ after he was hospitalized with
cholangitis, and he continued off treatment until ___ when CT
showed progression associated with increased abdominal pain.  He
was also diagnosed with right hydronephrosis.  He resumed single
agent gemcitabine ___, and then combination
gemcitabine/cisplatin ___ after ureteral stenting. 

Past Medical History:  
1. Cholangiocarcinoma, stage IV, as above.
2. Portal vein thrombosis

 
Social History:
___
Family History:
The patient's mother has hypertension. His father died with  
NASH cirrhosis at ___ years. His brother has no health concerns.  

He has three children, a son with irritable bowel syndrome and  
a daughter with ___ disease.  
 

 
Physical Exam:
ADMIT PHYSICAL EXAMINATION: 
146/90 HR 80 RR 18 99% RA T 98.9
General:  NAD, ambulating well
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly. Tender in
RUQ but no guarding/rebound. biliary drain in place no drainage
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal 
adenopathy
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. ___ strength throughout

DISCHARGE PHYSICAL EXAMINATION: 
 97.6  116/66 56  16  97%RA
General:  NAD, comfortable and conversing easily
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly. Tender in
RUQ but no guarding/rebound. biliary drain in place no drainage.
Mild-mod tenderness to palpation over epigastrium.
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal 
adenopathy
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. ___ strength throughout

 
Pertinent Results:
___ 12:15PM BLOOD WBC-3.2* RBC-3.25* Hgb-10.7* Hct-33.3* 
MCV-103* MCH-32.9* MCHC-32.1 RDW-13.5 RDWSD-50.4* Plt ___
___ 05:08AM BLOOD WBC-5.5# RBC-3.37* Hgb-11.6* Hct-35.0* 
MCV-104* MCH-34.4* MCHC-33.1 RDW-13.6 RDWSD-51.5* Plt ___
___ 05:59AM BLOOD Neuts-25.3* Lymphs-55.0* Monos-14.3* 
Eos-2.9 Baso-1.1* Im ___ AbsNeut-0.88* AbsLymp-1.92 
AbsMono-0.50 AbsEos-0.10 AbsBaso-0.04
___ 05:08AM BLOOD Neuts-48.0 ___ Monos-14.7* 
Eos-2.9 Baso-0.5 Im ___ AbsNeut-2.62# AbsLymp-1.79 
AbsMono-0.80 AbsEos-0.16 AbsBaso-0.03
___ 12:15PM BLOOD UreaN-17 Creat-1.1 Na-141 K-4.1 Cl-107 
HCO3-23 AnGap-15
___ 05:08AM BLOOD ALT-27 AST-28 AlkPhos-163* TotBili-0.3
___ 05:08AM BLOOD Calcium-8.8 Phos-4.0 Mg-1.9
___ 05:59AM BLOOD Triglyc-113

RUQ u/s ___
IMPRESSION:  
  
1.  No significant biliary dilatation. No gallstones identified. 
 Expected 
pneumobilia with biliary stents noted. 
2.  Soft tissue lesion at the gallbladder fundus, difficult to 
determine if 
extrinsic or intrinsic.  This may represent local or metastatic 
disease. 

 
Brief Hospital Course:
HOSPITAL COURSE:
___ M with stage 4 cholangiocarcinomas with peritoneal mets 
last given cis/gem ___ who is now admitted for epigastric pain.

# Abdominal pain - central/epigastric in abdomen and onset ___ h 
after meals, small bowel spasm related to metastatic impalnts 
are likely, versus gastritis/PUD. CT ___ showed nothing that 
could explain symptoms and neither did RUQ u/s ___ (LFTs 
stable, no fever and no leukocytosis - pt with history of 
cholangitis and biliary obstruction but this was a different 
pain entirely) Pancreatitis is possible given elevated 
lipase/amylase last week but symptoms persisted despite 
normalization of these enzymes and this would be an unusual 
course. Pt was made NPO and did not have further pain. He was 
then started on acid suppression with BID pantoprazole and began 
eating again without pain. Per GI, hyosciamine would be a good 
medication for him to try in the future if he were to develop 
cramping abdominal pain. He was also sent home with po dilaudid 
in case he develops pain that is refractory to oxycodone as it 
was prior to his presentation this time. 

# Neutropenia - afebrile. Holding chemotherapy the day of 
admission (was due for chemo ___ when seen in clinic). Pt has 
not had neutropenia after
chemotherapy before. Neutropenia resolved without growth factor 
support.

# Cholangiocarcinoma - mets to peritoneum. C23 D1 
cisplatin/gemcitabine on ___, chemo held ___ due to neutropenia 
as above. has f/u with Dr. ___.

# H/o recurrent cholangitis - has PTBD, biliary stents episodes 
of cholangitis in ___, and ___. Nothing to suggest 
cholangitis at the time of this admission.

# H/o Portal vein thrombosis - continued lovenox

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 100 mg SC DAILY 
Start: ___, First Dose: First Routine Administration Time 
2. Ondansetron 8 mg PO Q8H:PRN nausea 
3. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 
6. Ursodiol 300 mg PO BID 
7. Docusate Sodium 100 mg PO BID 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Senna 8.6 mg PO BID 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
2. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 4 hours as 
needed Disp #*45 Tablet Refills:*0
3. Hyoscyamine 0.125 mg PO BID:PRN stomach cramp 
4. Docusate Sodium 100 mg PO BID 
5. Enoxaparin Sodium 100 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
6. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Senna 8.6 mg PO BID 
9. Ursodiol 300 mg PO BID 
10. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
11. Ondansetron 8 mg PO Q8H:PRN nausea 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis or duodenitis
Abdominal pain
Cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for abdominal pain. We think this may be 
related to gastritis or irritaion of the stomach lining or a 
similar process in the first part of the intestine. We started 
an anti acid medicine called pantoprazole. Your pain improved 
after this so it seems most likely this is the cause of your 
symptoms. Take this medication 30 minutes before eating.

If you need pain medication stronger than oxycodone you can use 
the dilaudid.
 
Followup Instructions:
___